US07335658B2
1-TRIFLUOROMETHYLCYCLOPROPANECARBOXYLIC ACID {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}AMIDE
Following the procedure of Example 2, making variations only as required to use 1-trifluoromethylcyclopropanecarboxylic acid in place of benzyloxyacetic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone, the title compound was obtained as a white powder (16% yield). 1H NMR (300 MHz, CDCl3) δ 8.62, 8.18, 7.74, 7.63, 7.56, 7.34, 7.01, 4.03-3.89, 3.71-3.62, 3.60-3.58, 3.34-3.32, 1.54-1.52, 1.39-1.36. MS (ES+) m/z 487.9 (M+1).

reactant | 1-trifluoromethylcyclopropanecarboxylic acid | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 1-TRIFLUOROMETHYLCYCLOPROPANECARBOXYLIC ACID {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}AMIDE | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)NC(=O)C2(CC2)C(F)(F)F)C=CC=C1)(F)F | C21H19F6N5O2
